US06677368B2
3-[1-[4-(1-Acetyl-piperidine-4-carbonyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepin-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one
4-(1-Acetyl-piperidine-4-carbonyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde (56 mg) was condensed with 4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one (40 mg) and piperidine (2 drops) in ethanol (1 mL) at rt for overnight. The solvent was concentrated and the residue was purified on a silica gel column to give 50 mg of the title compound as a yellow solid.

reactant | 4-(1-Acetyl-piperidine-4-carbonyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde | 56 mg | C(C)(=O)N1CCC(CC1)C(=O)N1C2=C(CCCC1)NC(=C2)C=O | C17H23N3O3
reactant | 4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | 40 mg | FC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C14H10FNO
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[1-[4-(1-Acetyl-piperidine-4-carbonyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepin-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | 50 mg | C(C)(=O)N1CCC(CC1)C(=O)N1C2=C(CCCC1)NC(=C2)\C=C\2/C(NC1=CC=CC(=C21)C2=CC(=CC=C2)F)=O | C31H31FN4O3
